US05527819
Step A: 5-Chloro-3-phenylsulfonylindole-2-carbonitrile
5-Chloro-3-phenylsulfonylindole-2-carboxamide reacts with methyl (carboxysulfamoyl)triethylammonium hydroxide inner salt (Burgess reagent) in tetrahydrofuran (THF) solvent as described by D. A. Claremon and B. T. Phillips (Tetrahedron Lett., 29, 2155 (1988)) to provide the title compound.

reactant | 5-Chloro-3-phenylsulfonylindole-2-carboxamide | ClC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)C1=CC=CC=C1 | C15H11ClN2O3S
reactant | methyl (carboxysulfamoyl)triethylammonium hydroxide | [OH-].CCC[N+](CC)(CC)S(NC(=O)O)(=O)=O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-Chloro-3-phenylsulfonylindole-2-carbonitrile | ClC=1C=C2C(=C(NC2=CC1)C#N)S(=O)(=O)C1=CC=CC=C1 | C15H9ClN2O2S
